US04052421
A small excess of Jones reagent (8 N chromic acid in sulphuric acid) is added to a solution of 300 mg of 13-ethinyl-17β-hyroxy-10-methyl-gon-4-en-3-one in 4 ml of acetone at 0° C. The reaction mixture is stirred for a further 5 minutes at 0° C and the excess reagent is destroyed by adding isopropyl alcohol. The reaction mixture is diluted with ethyl acetate, washed with water, sodium bicarbonate solution and saturated sodium chloride solution, dried and evaporated. The residue is chromatographed on silica gel; elution with a mixture of hexne/ethyl acetate (3:1) gives 13-ethinyl-10-methyl-gon-4-ene-3,17-dione, which is identical to the product of Examples 1C and 3.

reactant | Jones reagent | 8 N | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 13-ethinyl-17β-hyroxy-10-methyl-gon-4-en-3-one | 300 mg | C(#C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@]1(CCC(C=C1CC2)=O)C)O | C20H26O2
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | 13-ethinyl-10-methyl-gon-4-ene-3,17-dione | C(#C)[C@]12C(CC[C@H]2[C@H]2[C@H](CC1)[C@]1(CCC(C=C1CC2)=O)C)=O | C20H24O2
